US07498346B2
(R)-[1-(3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amine (1.00 g, 2.62 mmol), EDCI (0.55 g, 2.88 mmol) and HOBT (0.39 g, 2.88 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added 4-cyano-2,6-dimethyl-benzoic acid (0.50 g, 2.88 mmol) followed by DIPEA (1.14 mL, 6.55 mmol) and the resulting mixture was stirred at 25° C. for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 96:3:1, v/v/v) afforded 4-cyano-N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-2,6-dimethyl-benzamide (0.77 g, 54%) as a white foam. 1H NMR (CDCl3) δ 0.98-1.04 (d+m, 4H), 1.22 (m, 1H), 1.54 (m, 1H), 1.73-1.82 (m, 3H), 2.16 (t, 1H), 2.33 (s, 3H), 2.36 (s, 3H), 2.40 (m, 1H), 2.52 (m, 1H), 2.69-2.88 (m, 3H), 3.21 (m, 1H), 3.33 (m, 1H), 3.73 (s, 3H), 3.77 (m, 1H), 3.96 (s, 2H), 6.63 (d, 2H, J=9.0 Hz), 6.73 (d, 2H, J=9.0 Hz), 7.05 (d, 1H, J=6.0 Hz), 7.27 (s, 2H), 7.84 (br s, 1H), 8.25 (s, 1H), 8.31 (d, 1H, J=6.0 Hz).

reactant | (R)-[1-(3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amine | 2.62 mmol, 1.00 g | NCC[C@@H](C)N1CCC(CC1)N(CC=1C=NC=CC1C)C1=CC=C(C=C1)OC | C23H34N4O
reactant | EDCI | 2.88 mmol, 0.55 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 2.88 mmol, 0.39 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-cyano-2,6-dimethyl-benzoic acid | 2.88 mmol, 0.50 g | C(#N)C1=CC(=C(C(=O)O)C(=C1)C)C | C10H9NO2
reactant | DIPEA | 6.55 mmol, 1.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-cyano-N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-2,6-dimethyl-benzamide | 0.77 g, 54% | C(#N)C1=CC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(CC=2C=NC=CC2C)C2=CC=C(C=C2)OC)C(=C1)C)C | C33H41N5O2
